US07365065B2
A solution of tert-butyl N-(3-(1,2,3,4-tetrahydroquinoxalin-3-on-1-carbonyl)benzyl)-N-methylcarbamate (280 mg, 0.71 mmol) in 4N hydrogen chloride/dioxan (30 ml) was stirred at room temperature for 1 h. The mixture was reduced in vacuo, taken up in chloroform, washed with saturated sodium hydrogen carbonate solution and brine, dried and reduced. Chromatography (10% methanol/90% chloroform) afforded 1-(3-(methylaminomethyl)benzoyl-1,2,3,4-tetrahydroquinoxalin-3-one (98 mg, 49%) as an orange solid.

reactant | tert-butyl N-(3-(1,2,3,4-tetrahydroquinoxalin-3-on-1-carbonyl)benzyl)-N-methylcarbamate | 0.71 mmol, 280 mg | N1(CC(NC2=CC=CC=C12)=O)C(=O)C=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C22H25N3O4
solvent | hydrogen chloride dioxan | 4N, 30 ml | Cl.O1CCOCC1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(methylaminomethyl)benzoyl-1,2,3,4-tetrahydroquinoxalin-3-one | 98 mg, 49% | CNCC=1C=C(C(=O)N2CC(NC3=CC=CC=C23)=O)C=CC1 | C17H17N3O2
